US05189205
This example demonstrates the preparation of n-octylisocyanate using boron tribromide as the "dehydrating agent." A 100 mL Fischer-Porter bottle was charged with octylamine (0.64 g, 5.0 mmol), cyclohexyltetraethyl guanidine (2.53 g, 10.0 mmol), biphenyl (0.15 g, 1 mmol; internal standard) and 25 mL of CH2Cl2. The reaction vessel was pressurized to 80 psig with CO2 and rapid stirring was initiated. A second Fischer-Porter bottle was charged with boron tribromide (1.26 g, 5.0 mmol) and 25 mL CH2Cl2, then pressurized to 80 psi with CO2. The solutions were stirred for 20 minutes at 21° C. after which time the carbamate salt was added to the solution of BBr3. A sample was taken after five minutes and diluted with diethyl ether and analyzed by gas chromatography. The yield of cyclohexylisocyanate was 13% relative to the biphenyl internal standard. The reaction mixture was stirred for 24 hours at the end of which time a second sample was taken giving 26% yield of cyclohexylisocyante and 30% di-n-octyl urea (85% conversion of amine) as determined by gas chromatography.

reactant | n-octylisocyanate | C(CCCCCCC)N=C=O | C9H17NO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | octylamine | 5.0 mmol, 0.64 g | C(CCCCCCC)N | C8H19N
reactant | cyclohexyltetraethyl guanidine | 10.0 mmol, 2.53 g | C1(CCCCC1)N=C(N(CC)CC)N(CC)CC | C15H31N3
reactant | biphenyl | 1 mmol, 0.15 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | CO2 | C(=O)=O | CO2
reactant | boron tribromide | 5.0 mmol, 1.26 g | B(Br)(Br)Br | BBr3
reactant | carbamate | C(N)([O-])=O
reactant | cyclohexylisocyanate | C1(CCCCC1)N=C=O | C7H11NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | di-n-octyl urea | 26% yield | C(CCCCCCC)NC(NCCCCCCCC)=O | C17H36N2O
